US07947715B2
Step 6: Production of 3-[4-(aminomethyl)phenyl]-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole (Compound of the present invention No. 9-001)
In a suspension of 1.4 g of N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenylmethyl]phthalimide in 20 mL of ethanol, 1.0 mL of 80% hydrazine monohydrate aqueous solution was added, and stirred under reflux with heating for 1.5 hour. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, 50 mL of chloroform was added therein, insoluble material was filtered off, and the solvent was distilled off under reduced pressure. The procedure comprising adding 50 mL of chloroform in the residue, filtering off insoluble material and distilling off the solvent was repeated twice to obtain 1.1 g of the aimed product as yellow resinous substance.

reactant | N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]phenylmethyl]phthalimide | 1.4 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O)C(F)(F)F | C25H15Cl2F3N2O3
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | hydrazine monohydrate | 1.0 mL | O.NN
product | 3-[4-(aminomethyl)phenyl]-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole | 1.1 g | NCC1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H13Cl2F3N2O
